US04875924
Ethyl 1-(4-trifluoromethoxyphenyl)-1,4-dihydro-4-oxo-5-fluorocinnoline-3-carboxylate (2.31 g) and potassium hydoxide (0.67 g) were added to a mixed solvent of ethanol (24 ml) and water (6 ml), and the resultant mixture was stirred at 60° to 70° C. for 7 hours. After being allowed to cool to room temperature, the mixture was diluted with water (100 ml), and washed with diethyl ether (30 ml). The water layer was neutralized with concentrated hydrochloric acid to pH 2 to precipitate crystals. The precipitated crystals was collected by filtration, washed two times with water (20 ml), and dried under reduced pressure to give 2.14 g of desired 1-(4-trifluoromethoxyphenyl)-1,4-dihydro-4-oxo-5-fluorocinnoline-3-carboxylic acid (yield: 99.5%). m.p., 200° C. (decomposed)

reactant | Ethyl 1-(4-trifluoromethoxyphenyl)-1,4-dihydro-4-oxo-5-fluorocinnoline-3-carboxylate | 2.31 g | FC(OC1=CC=C(C=C1)N1N=C(C(C2=C(C=CC=C12)F)=O)C(=O)OCC)(F)F | C18H12F4N2O4
reactant | potassium hydoxide | 0.67 g | [OH-].[K+]
reactant | ethanol | 24 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
solvent | water | 6 ml | O | H2O
product | 1-(4-trifluoromethoxyphenyl)-1,4-dihydro-4-oxo-5-fluorocinnoline-3-carboxylic acid | 2.14 g, yield: 99.5% | FC(OC1=CC=C(C=C1)N1N=C(C(C2=C(C=CC=C12)F)=O)C(=O)O)(F)F | C16H8F4N2O4
